US03940418
A mixture of 25 parts of 5,6-dihydro-4H-benzo-[6,7]cyclohepta[1,2-b]furan-2,3-dione, 21 parts of phenylhydrazine hydrochloride and 400 parts of absolute ethanol are refluxed for 6 hours. The ethanol is then removed under reduced pressure and the resulting residue is partitioned between benzene and water with sufficient potassium carbonate being added to make the mixture alkaline. The organic layer is then separated and washed twice with water before it is dried over potassium carbonate and the solvent is evaporated under reduced pressure. The resulting residue is recrystallized from hexane to give ethyl 1-phenyl-1,4,5,6-tetrahydrobenzo-[6,7]cyclohepta[1,2-c]pyrazole-3-carboxylate melting at about 110°-111°C.

reactant | 5,6-dihydro-4H-benzo-[6,7]cyclohepta[1,2-b]furan-2,3-dione | O1C2=C(C(C1=O)=O)CCCC1=C2C=CC=C1 | C13H10O3
reactant | phenylhydrazine hydrochloride | Cl.C1(=CC=CC=C1)NN
reactant | ethanol | C(C)O | C2H6O
product | ethyl 1-phenyl-1,4,5,6-tetrahydrobenzo-[6,7]cyclohepta[1,2-c]pyrazole-3-carboxylate | C1(=CC=CC=C1)N1N=C(C2=C1C1=C(CCC2)C=CC=C1)C(=O)OCC | C21H20N2O2
